US04749811
A 70 mL stainless steel high pressure reactor fitted with a Pyrex glass liner and magnetic stir bar is charged with THF (5 mL), (PPh3)2PdCl2 (0.05 mmol), L-menthoxyethanol (0.5 mmol), and vinyl benzoate (0.5 mmol). The reactor is sealed, pressurized to 1000 psig with CO, and stirred for 24 hours at 100° C. The product mixture, isolated after removal of gas from the reactor vessel, contains a diastereomeric mixture of L-menthoxyethyl benzoyl-L-lactate and L-menthoxyethyl benzoyl-D-lactate. The diastereomers are separated by preparative gas chromatography using an SE-30 liquid phase column. Each diastereomer is hydrolyzed separately by treatment with 2N HCl (aq) for 2 hours at 100° C. to give pure L- and D-lactic acid, benzoic acid, and L-menthoxyethanol, which is thereafter recycled to a repeat of the foregoing hydrocarboxylation reaction.

reactant | vinyl benzoate | 0.5 mmol | C(C1=CC=CC=C1)(=O)OC=C | C9H8O2
catalyst | (PPh3)2PdCl2 | 0.05 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
